US06624306B2
Heptadecanoic acid[2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidin-4-yl]-amide;
Octadecanoic acid[2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidin-4-yl-amide;

reactant | Octadecanoic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | 2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidin-4-yl-amide | C(C)C1(N(C(CC(C1C)[NH-])(C)CC)OC(C)C1=CC=CC=C1)C
product | Heptadecanoic acid[2,6-diethyl-2,3,6-trimethyl-1-(1-phenyl-ethoxy)-piperidin-4-yl]-amide | C(C)C1(N(C(CC(C1C)NC(CCCCCCCCCCCCCCCC)=O)(C)CC)OC(C)C1=CC=CC=C1)C | C37H66N2O2
